US04808586
2-(4-Chlorophenyl)-1H-benzimidazole-4,7-dione
A mixture of 1.0 g of 2-(4-chlorophenyl)-1H-benzimidazole-4,7-diol, 4 g of sodium sulfate and 1.3 g of silver oxide was stirred in p-dioxane for 12 hours and then filtered. The filtrate was evaporated and the residue crystallized from ethanol, giving 200 mg of the desired product as an orange solid, mp 270°-272° C. (dec.).

reactant | 2-(4-chlorophenyl)-1H-benzimidazole-4,7-diol | 1.0 g | ClC1=CC=C(C=C1)C1=NC2=C(N1)C(=CC=C2O)O | C13H9ClN2O2
reactant | sodium sulfate | 4 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | p-dioxane | O1CCOCC1 | C4H8O2
catalyst | silver oxide | 1.3 g | [Ag]=O
product | 2-(4-Chlorophenyl)-1H-benzimidazole-4,7-dione | 200 mg | ClC1=CC=C(C=C1)C1=NC2=C(N1)C(C=CC2=O)=O | C13H7ClN2O2
